US09169219B2
2-bromo-3-methoxy-4-nitrobenzoic acid (95 mg, 0.344 mmol) and 1-methyl-1H-tetrazol-5-amine (44 mg, 0.447 mmol) are dissolved in pyridine (6 ml). Oxalyl chloride (41 μl, 0.465 mmol) is slowly added dropwise, and the reaction mixture is subsequently warmed to 65° C. for 2 hours. The solvent is stripped off and the residue is separated by preparative HPLC. This gives 59 mg (0.165 mmol, yield 48%) of 2-bromo-3-methoxy-N-(1-methyl-1H-tetrazol-5-yl)-4-nitrobenzamide.

reactant | 2-bromo-3-methoxy-4-nitrobenzoic acid | 0.344 mmol, 95 mg | BrC1=C(C(=O)O)C=CC(=C1OC)[N+](=O)[O-] | C8H6BrNO5
reactant | 1-methyl-1H-tetrazol-5-amine | 0.447 mmol, 44 mg | CN1N=NN=C1N | C2H5N5
reactant | Oxalyl chloride | 0.465 mmol, 41 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 2-bromo-3-methoxy-N-(1-methyl-1H-tetrazol-5-yl)-4-nitrobenzamide | 0.165 mmol, 59 mg, yield 48% | BrC1=C(C(=O)NC2=NN=NN2C)C=CC(=C1OC)[N+](=O)[O-] | C10H9BrN6O4
